US05034546
10 g (66.7 mmol) of tetramethylhydroquinone are dissolved in 100 ml of dry tetrahydrofuran, 4 g (139 mmol) of sodium hydride (80% in mineral oil) are added thereto at room temperature, 45 ml of butyllithium (1.6 molar in hexane) are subsequently added dropwise and the mixture is stirred for 1 hour. 10 g (44.3 mmol) of 1,2-epoxy-2,6,10,14-tetramethylpentadecane are now added dropwise; the mixture is left to react for 12 hours while stirring. 100 ml of 1N methanolic hydrochloric acid are added and the mixture is stirred at 50° C. for 2 hours. The mixture is subsequently concentrated at 50° C. and the residue is chromatographed on silica gel with toluene, whereby there are obtained 14.9 g (75%) of α-tocopherol.

reactant | tetramethylhydroquinone | 66.7 mmol, 10 g | CC1=C(C(=C(C(=C1O)C)C)O)C | C10H14O2
reactant | sodium hydride | 139 mmol, 4 g | [H-].[Na+]
reactant | butyllithium | 1.6 molar, 45 ml | C(CCC)[Li]
reactant | 1,2-epoxy-2,6,10,14-tetramethylpentadecane | 44.3 mmol, 10 g | O1CC1(CCCC(CCCC(CCCC(C)C)C)C)C | C19H38O
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | α-tocopherol | 14.9 g, 75% | CC1=C(C2=C(C(=C1O)C)CC[C@@](O2)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C)C | C29H50O2
